US04322349
Analogously to Example 1, 1.0 g of 19-acetoxy-17-hexanoyloxy-4-pregnene-3,20-dione in 7 ml of methylene chloride is reacted with 4.9 ml of formaldehyde dimethylacetal and a mixture of 200 mg of phosphorus pentoxide and 1.5 g of kieselguhr W 20, and worked up. The crude product is purified on 110 g of silica gel with a hexane/acetone gradient (0-20% acetone), thus isolating 563 mg of 19-acetoxy-17-hexanoyloxy-6-methylene-4-pregnene-3,20-dione, mp 111°-112° C.

reactant | 19-acetoxy-17-hexanoyloxy-4-pregnene-3,20-dione | 1.0 g | C(C)(=O)OC[C@]12CCC(C=C1CC[C@H]1[C@@H]3CC[C@](C(C)=O)([C@]3(CC[C@H]21)C)OC(CCCCC)=O)=O | C29H42O6
reactant | formaldehyde dimethylacetal | 4.9 ml | COCOC | C3H8O2
reactant | phosphorus pentoxide | 200 mg | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
product | 19-acetoxy-17-hexanoyloxy-6-methylene-4-pregnene-3,20-dione | 563 mg | C(C)(=O)OC[C@]12CCC(C=C1C(C[C@H]1[C@@H]3CC[C@](C(C)=O)([C@]3(CC[C@H]21)C)OC(CCCCC)=O)=C)=O | C30H42O6
